US04399134
Raney nickel (400 g) was added to a solution of 58 g of 2-methyl-3-methylthio-4-morpholino-5-fluoro-7-bromoindole in 1 l of dioxane and the mixture was allowed to react at room temperature for 4 hours. After completion of the reaction Raney nickel was removed by filtration, and the filtrate was concentrated under reduced pressure. 33 g of 2-methyl-4-morpholino-5-fluoro-7-bromoindole was obtained.

reactant | 2-methyl-3-methylthio-4-morpholino-5-fluoro-7-bromoindole | 58 g | CC=1NC2=C(C=C(C(=C2C1SC)N1CCOCC1)F)Br | C14H16BrFN2OS
catalyst | Raney nickel | 400 g | [Ni] | Ni
solvent | dioxane | 1 l | O1CCOCC1 | C4H8O2
product | 2-methyl-4-morpholino-5-fluoro-7-bromoindole | 33 g | CC=1NC2=C(C=C(C(=C2C1)N1CCOCC1)F)Br | C13H14BrFN2O
